US06063806
N-(1-Octyl-5-chloroethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide (3.0 g) was dissolved in CH3CN (30 ml), and NaCH (3.7 g) and 18-crown-6 (0.1 g) were added, which was followed by refluxing for 17 hr under a nitrogen atmosphere. CH3CN was evaporated under reduced pressure, and water (100 ml) was added to the obtained residue. The mixture was extracted twice with AcOEt (100 ml). The AcOEt layer was washed with saturated brine (100 ml) and dried over anhydrous sodium sulfate, and AcOEt was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: AcOEt/benzene=1/10-1/5) to give 1.14 g of N-(1-octyl-5-cyanoethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide.

reactant | N-(1-Octyl-5-chloroethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide | 3.0 g | C(CCCCCCC)N1CCC2=C(C(=C(C(=C12)NC(C(C)(C)C)=O)C)CCCl)C | C25H41ClN2O
reactant | 18-crown-6 | 0.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | CH3CN | 30 ml | CC#N | C2H3N
product | N-(1-octyl-5-cyanoethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide | 1.14 g | C(CCCCCCC)N1CCC2=C(C(=C(C(=C12)NC(C(C)(C)C)=O)C)CCC#N)C | C26H41N3O
